US07504408B2
4-{3-[(4-{[5-Chloro-7-(4-methoxypent-1-yn-1-yl)-1,3-benzodioxol-4-yl]amino}-6-methoxyquinazolin-7-yl)oxy]propyl}-1-methylpiperazin-2-one
4-[3-({4-[(5-Chloro-7-iodo-1,3-benzodioxol-4-yl)amino]-6-methoxyquinazolin-7-yl}oxy)propyl]-1-methylpiperazin-2-one (250 mg, 0.40 mmol) and 4-methoxypent-1-yne (120 mg, 1.2 mmol) in ethyl acetate (8 ml) stirred at room temperature, under an atmosphere of nitrogen, and treated with bis(triphenylphosphine)palladium(II) dichloride (28 mg, 10 mol %) followed by copper(I) iodide (8 mg, 10 mol %) and diisopropylamine (82 mg, 0.81 mmol). The reaction was stirred 2 hr then DMF (3 ml) added followed by a further 120 mg 4-methoxypent-1-yne. The mixture was stirred for 1 hr then evaporated and the residue partitioned between water and dichloromethane. The organic layer was separated, washed with brine, dried over magnesium sulphate and evaporated to an orange oil. Purified by column chromatography on silica using increasing concentrations of methanol in dichloromethane as eluent to give the title compound (174 mg, 73%) as a pale yellow solid; NMR Spectrum:(DMSOd6) 1.23 (d, 3H), 1.98 (quintet, 2H), 2.54 (t, 2H), 2.61 (dd, 1H), 2.65-2.75 (m, 3H), 2.82 (s, 3H), 3.01 (s, 2H), 3.27 (t, 2H), 3.30 (s, 3H), 3.53 (m, 1H), 3.92 (s, 3H), 4.18 (t, 2H), 6.13 (s, 2H), 7.06 (s, 1H), 7.22 (s(broad), 1H), 7.84 (s, 1H), 8.38 (s(broad), 1H), 9.49 (s, 1H); Mass Spectrum: M+H+ 596/598.

reactant | 4-[3-({4-[(5-Chloro-7-iodo-1,3-benzodioxol-4-yl)amino]-6-methoxyquinazolin-7-yl}oxy)propyl]-1-methylpiperazin-2-one | 0.40 mmol, 250 mg | ClC1=C(C2=C(OCO2)C(=C1)I)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CC(N(CC1)C)=O | C24H25ClIN5O5
reactant | 4-methoxypent-1-yne | 1.2 mmol, 120 mg | COC(CC#C)C | C6H10O
reactant | diisopropylamine | 0.81 mmol, 82 mg | C(C)(C)NC(C)C | C6H15N
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | 4-methoxypent-1-yne | 120 mg | COC(CC#C)C | C6H10O
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 28 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 8 mg | [Cu]I
product | 4-{3-[(4-{[5-Chloro-7-(4-methoxypent-1-yn-1-yl)-1,3-benzodioxol-4-yl]amino}-6-methoxyquinazolin-7-yl)oxy]propyl}-1-methylpiperazin-2-one | 174 mg, 73% | ClC1=C(C2=C(OCO2)C(=C1)C#CCC(C)OC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CC(N(CC1)C)=O | C30H34ClN5O6
